US06864390B2
Trimethylsilyldiazomethane (14 mL of a 2 M solution in hexanes, 26.9 mmol) was added dropwise to a stirring solution of [(1S,3R)-1-carboxymethyl-3-methyl-cyclopentyl]-acetic acid tert-butyl ester (6.9 g, 26.9 mmol) in toluene (60 mL) and methanol (15 mL) at 10° C. under argon, and the mixture was allowed to warm to room temperature. The mixture was stirred for 2 hours, and then the solvent was evaporated under reduced pressure. The residue was taken up in ethyl acetate (200 mL), washed with saturated sodium hydrogen carbonate solution, dilute hydrochloric acid, dried (MgSO4), and the solvent removed in vacuo. The residue was purified by chromatography (silica gel, eluting with a gradient of heptane to 95:5 heptane:ethyl acetate) to give 6.73 g (92.4%) of [(1S,3R)-1-methoxycarbonylmethyl-3-methyl-cyclopentyl]-acetic acid tert-butyl ester;

reactant | Trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | [(1S,3R)-1-carboxymethyl-3-methyl-cyclopentyl]-acetic acid tert-butyl ester | 26.9 mmol, 6.9 g | C(C)(C)(C)OC(C[C@@]1(C[C@@H](CC1)C)CC(=O)O)=O | C14H24O4
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 15 mL | CO | CH4O
product | [(1S,3R)-1-methoxycarbonylmethyl-3-methyl-cyclopentyl]-acetic acid tert-butyl ester | 6.73 g, 92.4% | C(C)(C)(C)OC(C[C@@]1(C[C@@H](CC1)C)CC(=O)OC)=O | C15H26O4
